US07112582B2
Step 2: (5,6-Dihydro-4H-cyclopenta[b]furan-2-yl)methanol
5,6-Dihydro-4H-cyclopenta[b]furan-2-carboxylic acid methyl ester (2.24 g) was added to the THF (59 mL) solution of LiAlH4 (511 mg) under a nitrogen atmosphere at 0° C. and stirred for 1 h at 0° C. The mixture was quenched with 10 mL of water and filtered. The filtrate was concentrated under reduced pressure and the obtained aqueous solution was extracted with CHCl3. The organic layer was washed with brine and dried over MgSO4 and filtered. The filtrate was concentrated to afford titled compound as yellow oil (1.86 g, quant.).

reactant | 5,6-Dihydro-4H-cyclopenta[b]furan-2-carboxylic acid methyl ester | 2.24 g | COC(=O)C1=CC2=C(O1)CCC2 | C9H10O3
reactant | LiAlH4 | 511 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 59 mL | C1CCOC1 | C4H8O
product | (5,6-Dihydro-4H-cyclopenta[b]furan-2-yl)methanol | 1.86 g | O1C2=C(C=C1CO)CCC2 | C8H10O2
